Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Nafcillin / Lisinopril / difficult intubation requires 
LMA
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
___ y/o F with hx of extensive CAD s/p 5 vessel CABG in ___, 
ESRD ___ DMII, and HTN p/w 2 night hx of SOB with episode of 
shoulder blade discomfort. Pt. reports that over the past 2 
nights she has experienced ___ hours long episodes of shortness 
of breath while sleeping in her usual recliner. During the first 
night, the SOB resolved on its own without any associated 
CP/nausea/HA. However, her episode last night was worse than the 
previous and she subsequently developed ___ left scapular pain 
described as crushing pressure, which she reports having been 
similar to her anginal equivalent in the past. She denied any 
chest/arm/jaw pain, nausea, or other discomfort during this 
episode. It resolved in 3 hours and she slept the rest of the 
evening. She checks her weight daily and reports no recent 
weight gain, no medicine non-compliance, no increased salty food 
intake, no fevers, chills, fatigue, cough, nausea, vomiting, 
diarrhea, abdominal pain, weakness, numbness, headache, or 
visual changes.
 
In the morning, her family urged her to see her PCP. Her PCP 
found increased ___ inversions in the lateral leads from her 
baseline and sent her to the ED. Her vitals on arrival were 97.9 
116 94/58 20 96% on 2L NC. EKG showed lateral ___ inversions 
compared to and roughly stable from her baseline. BNP 
significantly elevated from her baseline of 5000s to the 16000s. 
She was admitted to ___ for further evaluation and management. 
During the evening of her admission, she also reported mild 
___ L arm pressure not associated with any other symptoms, 
self-resolved in 30 minutes.
 
Past Medical History:
-CAD s/p CABG ___ (LIMA to LAD, SVG to PDA, OM1, OM2, D1) 
Cath ___ all SVG occluded, stent to Lcx,Om1. Cath ___ ISR, 
brachytherapy. ___ stents to OM1, LCx. ___ OM occluded.
-DMII c/b retinopathy, neuropathy
-HTN
-HL
-dCHF EF 55%
-Chronic renal failure
-Obesity
-charcot ankle on left with osteomyelitis ___
-Intestinal Dieulafoy's (Hemorrhagic) Lesion
 
Social History:
___
Family History:
She reports her mother developed lung cancer, she was a smoker. 
She had a grandmother and an aunt who had breast cancer, 
grandmother was diagnosed with breast cancer in her ___ and her 
aunt was in her ___. There is no other family history of cancer.
 
Physical Exam:
ADMISSION:
98.4 133/82 73 16 98% 2.5L NC
GEN: Well-developed, obese female appearing stated age lying 
comfortably in bed in NAD
NECK: JVD at >14 cm
COR: Normal rate, regular rhythm. Accentuated P2. II-III/VI 
systolic murmur at R ___ intercostal space.
PULM: Lungs with faint bibasilar crackles, no rhonchi or 
wheezes.
___: + NABS in 4Q. Soft, NTND.
EXT: trace ___ edema, reportedly at baseline. warm, 
well-perfused. 2+ ___ pulses. No clubbing or cyanosis. L 
Charcot foot deformity with large surgical scar.
NEURO: MAEE. CN II-XII intact.

DISCHARGE:
VITAL SIGNS: 98.3 155/89 (133-187/80-88) 70 (70-76) 99% on 3L 
___ 3L NC) 111.6kg from ___ yesterday (just received PD 
fluids in)
GEN: Well-developed, obese female appearing stated age lying 
comfortably in bed in NAD
NECK: JVD at 12 cm
COR: Normal rate, regular rhythm. Accentuated P2. II-III/VI 
systolic murmur at R ___ intercostal space.
PULM: CTAB, no crackles, rhonchi, or wheezes.
___: + NABS in 4Q. Soft, NTND.
EXT: trace stable ___ edema, reportedly at baseline. warm, 
well-perfused. L Charcot foot deformity with large surgical 
scar.
NEURO: MAEE.
 
Pertinent Results:
ADMISSION:

___ 01:45PM BLOOD Glucose-261* UreaN-48* Creat-3.8* Na-141 
K-4.1 Cl-103 HCO3-26 AnGap-16
___ 01:45PM BLOOD ___ PTT-30.1 ___
___ 01:45PM BLOOD WBC-8.4 RBC-3.43* Hgb-9.9* Hct-31.4* 
MCV-92 MCH-28.9 MCHC-31.5 RDW-17.8* Plt ___
___ 01:45PM BLOOD CK-MB-3 cTropnT-0.33* ___
___ 01:45PM BLOOD CK(CPK)-41
___ 01:45PM BLOOD Calcium-9.3 Phos-3.8# Mg-1.8

OTHER RELEVANT:

___ 09:35PM BLOOD CK-MB-2 cTropnT-0.31*
___ 07:51AM BLOOD CK-MB-2 cTropnT-0.39*
___ 09:35PM BLOOD CK(CPK)-36
___ 07:51AM BLOOD CK(CPK)-32

DISCHARGE:

___ 07:50AM BLOOD Glucose-257* UreaN-49* Creat-4.3* Na-142 
K-4.3 Cl-102 HCO3-31 AnGap-13
___ 07:50AM BLOOD Calcium-9.5 Phos-5.3* Mg-1.9

___ STRESS TEST:
___ year old woman with history of old MI, CABG ___,
insulin-dependent diabetes, chronic kidney disease, 
hypertension,
presenting with shortness of breath and left shoulder 
pain/anginal
equivalent following negative serial enzymes and EKGs for 
pharmacologic
stress test with nuclear imaging. She completed 4 minutes of
dipyridamole infusion at 0.142 mg/kg/min. She had no chest, 
back, arm,
shoulder, neck, or jaw discomfort. Her baseline EKG had TWI in I 
and
aVL with diffuse TW flattening which did not change throughout 
the
study. Her rhythm was sinus with one ventricular couplet on rest 
EKG
without ectopy during study. She had an appropriate hemodynamic
response to dipyridamole infusion. At conclusion of the study,
dipyridamole was reversed with amniophylline 125 mg IV.
IMPRESSION: No anginal symptoms or ST segment changes with 
pharmacologic
stress testing. Nuclear reported separately.

___ ECHO:
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity is 
moderately dilated. There is mild regional left ventricular 
systolic dysfunction with inferior and inferolateral 
hypokinesis. The remaining segments contract normally (LVEF = 
40-45%). Right ventricular chamber size and free wall motion are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. Moderate to severe (3+) mitral 
regurgitation is seen. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion.

IMPRESSION: Mild regional left ventricular systolic function. 
Moderate to severe mitral regurgitation. Mild pulmonary 
hypertension.

Compared with the prior study (images reviewed) of ___, 
regional LV systolic dysfunction is now more apparent.  

___ CARDIAC PERFUSION:
SUMMARY FROM THE EXERCISE LAB:
Dipyridamole was infused intravenously for 4 minutes at a dose 
of 0.142
milligram/kilogram/min. 
 
IMAGING METHOD:
Stress images were obtained with Tc-99m sestamibi. Tracer was 
administered
intravenously two minutes after the cessation of infusion of 
dipyridamole.
Stress images were obtained approximately 45 minutes following 
tracer
injection.
Resting perfusion images were obtained with Tc-99m sestamibi the 
day following
pharmacologic stress. Tracer was injected 45 minutes prior to 
obtaining the
resting images.
Image Protocol: Gated SPECT
This study was interpreted using the 17-segment myocardial 
perfusion model.
 
INTERPRETATION:
There is considerable attenuation by overlying soft tissue.
Left ventricular cavity size is moderately enlarged.
Resting and stress perfusion images reveal a moderate defect in 
the
inferolateral wall with only a small amount of reversibility.
 
Gated images reveal septal wall motion compatible with prior 
cardiac surgery.
The calculated left ventricular ejection fraction is 33%.
 
Compared with the prior exercise stress study of ___, 
there is somewhat
less reversibility in the inferolateral wall.
 
IMPRESSION:  Moderate defect in the inferolateral wall with a 
small amount of
reversibility.  Decrease ventricular function with a moderately 
enlarged
ventricle and a LVEF of 33%.  There has been little change since 
the study of
___.
 
Brief Hospital Course:
___ y/o F with extensive CAD history s/p 5 vessel CABG, ESRD on 
PD ___ DMII and HTN p/w 2 night history of SOB associated with 
back/scapular discomfort.

ACTIVE DIAGNOSES:

# Acute on Chronic Diastolic Heart Failure Dysfunction with 
Shortness of breath: Given her dependence on peritoneal 
dialysis, her history of diastolic heart failure, her shortness 
of breath when slightly more recumbent at night, significantly 
elevated JVP at >14cm on admission, significantly elevated BNP > 
16000 and above baseline, the etiology of her shortness of 
breath is most likely due to fluid and pressure overload. She 
was diuresed with IV Lasix during her hospital course and 
experienced significant improvement in her shortness of breath. 
Her weight remained relatively stable with clear lungs and lack 
of significant increase in ___ edema on presentation, however 
even a small amount of fluid overload in a patient with ESRD and 
diastolic dysfunction may result in shortness of breath, and her 
JVD suggests continued fluid or pressure overload. She was 
continued on her home diuretics metolazone and torsemide, and 
renal was consulted for increasing the volume of fluid removed 
during her PD. By the time of discharge, she had returned to her 
baseline and had no further complaints. She will follow-up with 
nephrology for further management.

# Scapular/Arm pain:
Given her extensive CAD history, report of scapular discomfort 
being her anginal equivalent, and initial troponin of 0.33, 
there was initially concern for NSTEMI/ACS. Her EKG changes were 
quite subtle and non-specific, however, with relatively stable 
___ inversions and minimal ST depression stable compared to 
baseline. Additionally, her troponins run in the 0.2s to 0.3s 
from her chronic renal insufficiency. Due to the lack of 
ischemic EKG changes, lack of significant bump of her troponins, 
as well as negative CK-MB, the etiology of both her enzymes and 
physical discomfort are likely the result of fluid overload and 
subsequent demand ischemia rather than an acute thrombotic 
event. She had been started on a heparin gtt, given aspirin, 
beta-blocker, and her other home meds, however the heparin gtt 
was stopped after further assessment and discussion with the 
cardiology team. She is currently not having any discomfort. 
Still, to rule out the possibility of CAD contributing to her 
pain, she underwent a pharmacological stress test, which showed 
stable defect in the inferolateral wall. No further 
interventions were performed. She will follow-up with her PCP as 
needed.
 
CHRONIC DIAGNOSES:

# CRI:
On nightly peritoneal dialysis. She will undergo PD tonight in 
the hospital in order to take off as much fluid as possible and 
relieve her fluid overload. She will follow-up with nephrology 
and continue her home regimen of medications for now.
 
# HTN:
Moderately hypertensive since admission. Will add 10mg 
amlodipine daily. Will continue on her other home medications.
 
# DMII:
Reported recent A1c of 6.8. Will maintain on fixed Lantus and 
SSI Humalog while in hospital.
 
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from PatientwebOMR.
1. Nephrocaps 1 CAP PO DAILY 
2. Ezetimibe 10 mg PO DAILY 
3. Gabapentin 300 mg PO DAILY 
4. Gentamicin 0.1% Cream 1 Appl TP DAILY 
to PD catheter site 
5. Glargine 30 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
6. Lorazepam 1 mg PO Q8H:PRN anxiety 
7. Metoclopramide 5 mg PO QIDACHS 
8. Metolazone 5 mg PO QMOWEFR 
9. Metoprolol Succinate XL 50 mg PO DAILY 
10. Ranitidine 150 mg PO DAILY 
11. Rosuvastatin Calcium 40 mg PO DAILY 
12. Sertraline 100 mg PO DAILY 
13. sevelamer CARBONATE 800 mg PO TID W/MEALS 
14. Torsemide 100 mg PO DAILY 
15. Aspirin 325 mg PO DAILY 
16. Docusate Sodium 100 mg PO BID:PRN constipation 
17. Ferrous Gluconate 325 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID:PRN constipation 
3. Ezetimibe 10 mg PO DAILY 
4. Ferrous Gluconate 325 mg PO DAILY 
5. Gabapentin 300 mg PO DAILY 
6. Gentamicin 0.1% Cream 1 Appl TP DAILY 
to PD catheter site 
7. Glargine 30 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
8. Lorazepam 1 mg PO Q8H:PRN anxiety 
9. Metoclopramide 5 mg PO QIDACHS 
10. Metolazone 5 mg PO QMOWEFR 
11. Metoprolol Succinate XL 50 mg PO DAILY 
12. Nephrocaps 1 CAP PO DAILY 
13. Ranitidine 150 mg PO DAILY 
14. Rosuvastatin Calcium 40 mg PO DAILY 
15. Sertraline 100 mg PO DAILY 
16. sevelamer CARBONATE 800 mg PO TID W/MEALS 
17. Torsemide 100 mg PO DAILY 
18. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on Chronic Diastolic Heart Failure
Hypertension
Chronic renal insufficiency
Diabetes Mellitus, type II
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to take care of you during your 
hospitalization. You were admitted for shortness of breath and 
back/shoulder pain. During your stay, you were found to have 
retained too much fluid in your body and your blood pressure was 
elevated. Through medications and dialysis, we removed much of 
this excess fluid and we also controlled your blood pressure 
with new medications.

You underwent a stress test which showed a small area of 
reversible ischemia. As we discussed, the risks of giving you 
contrast for a cardiac catheterization are likely much greater 
than the potential benefits. If you have more symptoms you 
should call your cardiologist.

The nephrologists recommended changes to your peritoneal 
dialysis. One of your dwells was increased to 4.25%. The rest 
are unchanged from before. You should call your nephrologist 
first thing on ___ morning to discuss follow-up and any 
further changes. 

Please continue to weigh yourself every morning, and call your 
doctor if weight goes up more than 3 lbs. Please also continue 
to take all of your medications as prescribed.
 
Followup Instructions:
___